US05891899
ii) 2-Amino-2-[4-(1H-tetrazol-5-yl)phenyl]-3-(9H-xanthen-9-yl)propanoic acid
5-(9H-xanthen-9-ylmethyl)-5-[4-(1H-tetrazol-5-yl)phenyl]hydantoin (3.2 g, 7.6 mmol) was heated with aqueous sodium hydroxide (2M, 23 ml) at 130° C. for 2 days following the procedure described in Example 1 (vi). The reaction mixture was acidified with aqueous hydrochloric acid and the product isolated by filtration to give the title compound as a white solid.

reactant | 5-(9H-xanthen-9-ylmethyl)-5-[4-(1H-tetrazol-5-yl)phenyl]hydantoin | 7.6 mmol, 3.2 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)CC1(C(NC(N1)=O)=O)C1=CC=C(C=C1)C1=NN=NN1 | C24H18N6O3
reactant | sodium hydroxide | 2M, 23 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-Amino-2-[4-(1H-tetrazol-5-yl)phenyl]-3-(9H-xanthen-9-yl)propanoic acid | NC(C(=O)O)(CC1C2=CC=CC=C2OC=2C=CC=CC12)C1=CC=C(C=C1)C1=NN=NN1 | C23H19N5O3
